US07977352B2
F.20 1-Cyclohexyl-4-(4-nitrophenyl)piperazine
Following the general procedure described above for the synthesis of 11-(4-nitrophenyl)-4-(pentan-3-yl)piperazine, treatment of 1-(4-nitrophenyl)piperazine (5.00 g, 24.1 mmol, 1.0 equiv.) with cyclohexanone (7.10 g, 72.4 mmol, 2.0 eq) in DCM (100 mL) at rt for 72 h provided the title compound as a yellow solid (4.80 g, 68% recovery, 89% purity as determined by LC/MS analysis @ UV 254 nm detection). In this case, an additional portion (25 mL) is added to the reaction mixture after 1 h. Upon addition of hexane (25 mL) to the crude residue, obtained from evaporation of the DCM extract, and stirring for 24 h the product precipitated from solution and was collected by filtration, washed with hexanes (2×25 mL), and dried under vacuum. The crude product is used in the next step without further purification. LCMS purity: 89% by UV 254 nm detection. LCMS-ESI (m/z): calcd for C16H23N3O2, 289; [M+H]+ found, 290.

reactant | 1-(4-nitrophenyl)piperazine | 24.1 mmol, 5.00 g, 1.0 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | cyclohexanone | 72.4 mmol, 7.10 g, 2.0 eq | C1(CCCCC1)=O | C6H10O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Cyclohexyl-4-(4-nitrophenyl)piperazine | 4.80 g | C1(CCCCC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O2
